US04733002
To 50 ml of butanol into which hydrogen chloride gas was introduced beforehand for about 10 minutes, was added 2 g of caffeic acid. The resulting mixture was heated at 90° to 100° C. and stirred for 3 hours. The reaction product was concentrated under a reduced pressure, and the residue obtained was purified by means of chromatography and then recrystallized from ether/hexane to give 1.4 g of caffeic acid butyl ester.

reactant | hydrogen chloride | Cl | ClH
reactant | caffeic acid | 2 g | C(\C=C\C1=CC(O)=C(O)C=C1)(=O)O | C9H8O4
solvent | butanol | 50 ml | C(CCC)O | C4H10O
product | caffeic acid butyl ester | 1.4 g | C(CCC)OC(\C=C\C1=CC(O)=C(O)C=C1)=O | C13H16O4
